US06953806B2
In analogy to the method described in example 12.1, trans-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester was reacted with (2-hydroxy-ethyl)-methyl-amine in N,N-dimethylacetamide at 50° C. for 3 hours to yield trans-(4-{4-[(2-hydroxy-ethyl)-methyl-amino]-butoxymethyl}-cyclohexylmethyl)-methyl-carbamic acid 4-chloro-phenyl ester as colorless viscous oil, MS: 441 (MH+, 1Cl).

reactant | trans-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)COCCCCBr)=O | C20H29BrClNO3
reactant | (2-hydroxy-ethyl)-methyl-amine | OCCNC | C3H9NO
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-(4-{4-[(2-hydroxy-ethyl)-methyl-amino]-butoxymethyl}-cyclohexylmethyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)COCCCCN(C)CCO)=O | C23H37ClN2O4
